data/polar.json
{"reaction_name": "Vinylic substitution by addition–elimination", "rsmi": "[O-:3][CH3:7].[Cl:5][CH:4]=[CH:6][N+:8](=[O:1])[O-:2]>>[Cl-:5].[O:3]([CH:4]=[CH:6][N+:8](=[O:1])[O-:2])[CH3:7]", "epd": [["LP-/Sigma+", [3], [3, 4]], ["Sigma-/LP+", [4, 5], [5]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[C:2](#[N:9])[C:19]([C:3]#[N:10])=[CH:5][c:21]1[cH:7][cH:15][cH:22][cH:16][cH:8]1.[CH2:1]1[CH2:12][CH2:6][NH:18][C:11]2=[N:20][CH2:4][CH2:13][CH2:17][N:14]12>>[CH2:1]1[CH2:12][CH2:6][NH:18][C:11]2=[N+:14]1[CH2:17][CH2:13][CH2:4][N:20]2[CH:5]([C:19](=[C:2]=[N-:9])[C:3]#[N:10])[c:21]1[cH:7][cH:15][cH:22][cH:16][cH:8]1", "epd": [["LP-/Pi+", [14], [11, 14]], ["Pi-/Sigma+", [20, 11], [20, 5]], ["Pi-/Pi+", [5, 19], [19, 2]], ["Pi-/LP+", [2, 9], [9]]]}
{"reaction_name": "Asymmetric proline aldol addition", "rsmi": "[CH2:2]([C:12](=[O:5])[CH3:11])[H:13].[O:1]=[CH:4][c:3]1[cH:9][cH:7][cH:6][cH:8][cH:10]1>>[O:1]([CH:4]([CH2:2][C:12](=[O:5])[CH3:11])[c:3]1[cH:9][cH:7][cH:6][cH:8][cH:10]1)[H:13]", "epd": [["Pi-/LP+", [1, 4], [1]], ["LP-/Sigma+", [1], [1, 13]], ["Sigma-/LP+", [2, 13], [2]], ["LP-/Sigma+", [2], [2, 4]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[C:1]1(=[O:3])[N-:2][CH2:15][CH2:16][O:7]1.[cH:4]1[cH:11][cH:5][c:6]2[c:12]([o+:8][c:10](-[c:20]3[cH:17][cH:13][cH:21][cH:14][cH:18]3)[cH:9][cH:19]2)[cH:22]1>>[C:1]1(=[O:3])[N:2]([CH:19]2[c:6]3[cH:5][cH:11][cH:4][cH:22][c:12]3[O:8][C:10]([c:20]3[cH:17][cH:13][cH:21][cH:14][cH:18]3)=[CH:9]2)[CH2:15][CH2:16][O:7]1", "epd": [["LP-/Sigma+", [2], [2, 19]], ["Pi-/Pi+", [19, 9], [9, 10]], ["Pi-/LP+", [10, 8], [8]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[N:3]1([c:7]2[c:36]([CH3:12])[cH:32][c:23]([CH3:17])[cH:35][c:39]2[CH3:15])[CH:31]=[CH:30][N:4]([c:8]2[c:37]([CH3:13])[cH:33][c:24]([CH3:18])[cH:34][c:38]2[CH3:14])[C:40]1=[CH2:25].[cH:1]1[cH:2][cH:20][cH:6][c:9]2[c:5]1[N+:27]([CH3:11])=[CH:19][C:16]2=[CH:10][c:26]1[cH:21][cH:28][cH:41][cH:29][cH:22]1>>[cH:1]1[cH:2][cH:20][cH:6][c:9]2[c:5]1[n:27]([CH3:11])[cH:19][c:16]2[CH:10]([CH2:25][c:40]1[n+:3](-[c:7]2[c:36]([CH3:12])[cH:32][c:23]([CH3:17])[cH:35][c:39]2[CH3:15])[cH:31][cH:30][n:4]1-[c:8]1[c:37]([CH3:13])[cH:33][c:24]([CH3:18])[cH:34][c:38]1[CH3:14])[c:26]1[cH:21][cH:28][cH:41][cH:29][cH:22]1", "epd": [["LP-/Pi+", [3], [40, 3]], ["Pi-/Sigma+", [25, 40], [25, 10]], ["Pi-/Pi+", [10, 16], [16, 19]], ["Pi-/LP+", [19, 27], [27]]]}
{"reaction_name": "Acylhydrazone exchange", "rsmi": "[CH3:3][C:8]([NH:9][N:6]([H:13])[H:14])=[O:11].[CH:1](=[N:4][NH:2][C:5]([CH3:7])=[O:12])[CH3:10]>>[CH:1](=[N:6][NH:9][C:8]([CH3:3])=[O:11])[CH3:10].[NH:2]([N:4]([H:13])[H:14])[C:5]([CH3:7])=[O:12]", "epd": [["LP-/Sigma+", [6], [1, 6]], ["Sigma-/LP+", [1, 4], [4]], ["LP-/Sigma+", [4], [4, 13]], ["Sigma-/LP+", [6, 13], [6]], ["LP-/Pi+", [6], [1, 6]], ["Pi-/LP+", [1, 4], [4]], ["LP-/Sigma+", [4], [4, 14]], ["Sigma-/LP+", [6, 14], [6]]]}
{"reaction_name": "Michael addition", "rsmi": "[C:1](#[N:10])[C:20]([C:2]#[N:11])=[CH:4][c:22]1[cH:6][cH:18][cH:23][cH:19][cH:7]1.[cH:3]1[cH:12][cH:8][c:16]2[c:5]([cH:21]1)[CH:24]([Zn-:15]([Cl:13])[Cl:14])[CH:17]=[CH:9]2>>[C:1](=[N-:10])=[C:20]([C:2]#[N:11])[CH:4]([c:22]1[cH:6][cH:18][cH:23][cH:19][cH:7]1)[CH:24]1[c:5]2[c:16]([cH:8][cH:12][cH:3][cH:21]2)[CH:9]=[CH:17]1.[Cl:13][Zn:15][Cl:14]", "epd": [["Sigma-/Sigma+", [24, 15], [24, 4]], ["Pi-/Pi+", [4, 20], [20, 1]], ["Pi-/LP+", [1, 10], [10]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:4]1([Cl:18])=[C:5]([Cl:19])[C:9](=[O:12])[C:15]([C:20]#[N:22])=[C:16]([C:21]#[N:23])[C:8]1=[O:11].[c:1]1([CH:13]=[N+:10]=[N-:17])[cH:6][cH:2][cH:14][cH:3][cH:7]1>>[c:1]1([CH:13]([N+:10]#[N:17])[C:15]2([C:20]#[N:22])[C:9](=[O:12])[C:5]([Cl:19])=[C:4]([Cl:18])[C:8]([O-:11])=[C:16]2[C:21]#[N:23])[cH:6][cH:2][cH:14][cH:3][cH:7]1", "epd": [["LP-/Pi+", [17], [10, 17]], ["Pi-/Sigma+", [13, 10], [13, 15]], ["Pi-/Pi+", [15, 16], [16, 8]], ["Pi-/LP+", [8, 11], [11]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[c:1]12[c:8]([cH:22][cH:20][cH:40][cH:10]1)-[c:9]1[c:2]([cH:11][cH:41][cH:21][cH:23]1)[N+:39]2=[CH:7][CH3:28].[c:3]1([B-:27]2([c:29]3[cH:24][c:13]([C:5]([F:33])([F:34])[F:35])[cH:16][c:14]([C:6]([F:36])([F:37])[F:38])[cH:25]3)[O:31][CH2:42][C:26]([CH3:18])([CH3:19])[CH2:43][O:32]2)[s:15][c:12]([CH3:30])[cH:4][cH:17]1>>[C:5]([c:13]1[cH:16][c:14]([C:6]([F:36])([F:37])[F:38])[cH:25][c:29]([B-:27]2=[O+:31][CH2:42][C:26]([CH3:18])([CH3:19])[CH2:43][O:32]2)[cH:24]1)([F:33])([F:34])[F:35].[c:1]12[c:8]([c:9]3[c:2]([cH:11][cH:41][cH:21][cH:23]3)[n:39]1[CH:7]([c:3]1[s:15][c:12]([CH3:30])[cH:4][cH:17]1)[CH3:28])[cH:22][cH:20][cH:40][cH:10]2", "epd": [["LP-/Pi+", [31], [27, 31]], ["Sigma-/Sigma+", [3, 27], [3, 7]], ["Pi-/LP+", [7, 39], [39]]]}
